US04273704
18.9 Grams of Boc-D-alanine are dissolved in 100 ml of methylene chloride, and 22.0 ml of N-methylmorpholine is added. The solution is cooled to -70° C. and 13.0 ml of isobutylchloroformate is added. The reaction mixture is warmed to -15° C. and again cooled to -70° C. and 12.6 g of methyl glycinate hydrochloride is added. The reaction mixture is stirred for sixteen hours at room temperature then extracted three times with a 1.0 M solution of potassium bisulfate, saturated potassium bicarbonate solution, and a saturated sodium chloride solution. The methylene chloride solution is dried over anhydrous sodium sulfate, filtered and stripped of solvent. The product is purified by chromatography on silica gel using methanol-chloroform eluant. Removal of the solvent provides methyl Boc-D-alanylglycinate.

reactant | Boc-D-alanine | C(=O)(OC(C)(C)C)N[C@H](C)C(=O)O | C8H15NO4
reactant | N-methylmorpholine | 22.0 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 13.0 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | methyl glycinate hydrochloride | 12.6 g | Cl.NCC(=O)OC
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | methyl Boc-D-alanylglycinate | C(=O)(OC(C)(C)C)N[C@H](C)C(=O)NCC(=O)OC | C11H20N2O5
